US05187086
2-[2-(4-Aminophenyl)-1-hydroxyethyl]-1-methyl benzene (Compound XII)
n-BuLi (2.8 ml, 2.6 M in hexanes, 4.4 mmol) was added to 30 ml THF and cooled to -78° degrees C. (CO2 /acetone). To this solution, 2-bromotoluene (0.573 ml, 4.8 mmol) was added and allowed to stir 30 minutes. Aldehyde Compound VI, (1.9 g, 3.2 mmol) dissolved in 15 ml of THF and cooled to -78° degrees C. was next added, and the resulting mixture stirred for two hours. The reaction mixture was poured into a saturated ammonium chloride solution and extracted 2×25 ml with methylene chloride. The combined organic layers were dried with sodium sulfate and purified by flash chromatography in 6:1:1.5 hexanes:methylene chloride:ethyl acetate yielding 900 mg of Compound XII, 69 percent of the theoretical amount. 1H NMR (CDCl3) δ7.9-7.8 (m, 1H), 7.68-7.40 (m, 2H), 7.40-7.15 (m, 12H), 7.05 (d, J=8.6 Hz, 2H), 6.70 (d, J=8.6 Hz, 2H), 5.3 (t, J=7.1 Hz, 1H), 4.62 (s, 4H) 3,0-2.7 (m, 2H), 2.3 (s, 3H). Anal. Calcd. for C29H29NO: C, 85.50; H, 7.13; N, 3.44. Found C, 85.58; H, 7.08; N, 3.41.

reactant | n-BuLi | 4.4 mmol, 2.6 M, 2.8 ml | [Li]CCCC
reactant | CO2 acetone | C(=O)=O.CC(=O)C
reactant | 2-bromotoluene | 4.8 mmol, 0.573 ml | BrC1=C(C=CC=C1)C | C7H7Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-[2-(4-Aminophenyl)-1-hydroxyethyl]-1-methyl benzene | NC1=CC=C(C=C1)CC(O)C1=C(C=CC=C1)C | C15H17NO
